US09340538B2
Step A: 1H-1,2,4-triazole-3-carboximidamide hydrochloride
1H-1,2,4-triazole-3-carbonitrile (0.94 g, 10 mmol) was reacted with sodium methoxide (0.81 g, 15 mmol) and ammonium chloride (0.96 g, 18 mmol) according to the procedure as described in Example 61, Step B to give the title compound as an offwhite solid (0.59 g, 40%). The compound was characterized by the following spectroscopic data:

reactant | 1H-1,2,4-triazole-3-carbonitrile | 10 mmol, 0.94 g | N1N=C(N=C1)C#N | C3H2N4
reactant | sodium methoxide | 15 mmol, 0.81 g | C[O-].[Na+]
reactant | ammonium chloride | 18 mmol, 0.96 g | [Cl-].[NH4+]
product | 1H-1,2,4-triazole-3-carboximidamide hydrochloride | Cl.N1N=C(N=C1)C(N)=N | InChI=1S/C3H5N5.ClH/c4-2(5)3-6-1-7-8-3;/h1H,(H3,4,5)(H,6,7,8);1H
